data/mechanisms/records/IMS8-EQ8.110.json
{"mechanism_id": "IMS8-EQ8.110", "species": [{"species_id": "ethyl_3_phenylpropanoate_molecular_ion", "mapped_smiles": "[CH3:5][CH2:4][O:3][C:1](=[O+:2])[CH2:6][CH:7]([1H:14])[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_protonated_ester_benzylic_radical", "mapped_smiles": "[CH3:5][CH2:4][O:3][C:1](=[O+:2][1H:14])[CH2:6][CH:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "o_protonated_4_phenyl_2_oxetanone", "mapped_smiles": "[1H:14][O+:2]1[C:1](=[O:3])[CH2:6][CH:7]1[c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH3:5][CH2:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "hydroxy_benzyl_cation_protonated_benzaldehyde", "mapped_smiles": "[1H:14][O+:2]=[CH:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ketene", "mapped_smiles": "[O:3]=[C:1]=[CH2:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethyl_3_phenylpropanoate_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["distonic_protonated_ester_benzylic_radical"]}, {"state_id": "state_lactone_149", "species_ids": ["o_protonated_4_phenyl_2_oxetanone", "ethyl_radical"]}, {"state_id": "state_products_107", "species_ids": ["hydroxy_benzyl_cation_protonated_benzaldehyde", "ketene", "ethyl_radical"]}], "steps": [{"step_id": "step_rH_beta_hydrogen", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 14]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 14]}, "target": {"type": "bond", "atom_maps": [2, 14]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 14]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rd_ethyl_radical_loss", "from_state": "state_distonic", "to_state": "state_lactone_149", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [2, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_retro_2plus2_ketene_loss", "from_state": "state_lactone_149", "to_state": "state_products_107", "step_class": "retro_2plus2_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [2, 7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH_8_110", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_beta_hydrogen", "support_type": "textbook_proposed", "locator": {"page": 216, "equation": "8.110", "figure": null, "panel": "row 1, first arrow, labelled 'r H'", "section": "8.11 Displacement reactions (rd)"}, "confidence": 0.85, "curator_note": "SUBSTRATE READ FROM THE DRAWING: the leftmost structure is C6H5-CH2-CH2-C(=O)-O-C2H5 (ethyl 3-phenylpropanoate / ethyl hydrocinnamate, C11H14O2), drawn n-ionized at the ESTER CARBONYL oxygen - the book prints '+.' directly above that oxygen, which carries the double bond down to the acyl carbon and is joined to the OC2H5 written at the lower left. The mass ladder confirms the assignment: M+. 178 - 29 (C2H5.) = the printed m/z 149, and 149 - 42 (ketene) = the printed m/z 107. THIS STEP: the explicitly drawn H sits on the BENZYLIC (beta) carbon and is transferred to the oxonium oxygen through the five-membered ring the book draws (O, C(=O), C(alpha)H2, C(beta)H2, H), giving the distonic ion the centre structure prints: HO(+)=C(OC2H5)-CH2-C.(H)C6H5, an O-protonated ester with the odd electron now on the benzylic carbon (the book marks it with a dot there). ARC COUNT (convention D): Book draws 2 arc(s), both single-barbed fishhooks that converge on the forming O-H bond - arc 1 starts at the odd-electron dot of the '+.' on the oxygen and its barb points down onto the hydrogen; arc 2 starts on the C(beta)-H bond and its barb points left onto the oxygen. Moves <1,2> are those two drawn arcs (both transcribed with the new O-H bond as target, which is the bond they jointly build); move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - it leaves the second electron of the cleaving C(beta)-H bond on the benzylic carbon, which is what actually creates the radical the centre structure prints as a dot. LOCALIZATION (convention B): the precursor SMILES puts the charge and the odd electron explicitly on the carbonyl oxygen ([O+:2] carrying only the double bond = one unpaired electron in RDKit), so arc 1 has a real origin, exactly as the book localizes it. ATOM-MAP NOTE: the migrating hydrogen is written [1H:14] so that RDKit keeps it explicit and it can carry an atom map; it is ordinary protium, not a label the book draws."}, {"evidence_id": "ev_step_rd_8_110", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_ethyl_radical_loss", "support_type": "textbook_proposed", "locator": {"page": 216, "equation": "8.110", "figure": null, "panel": "row 1, second arrow, labelled '- C2H5.'", "section": "8.11 Displacement reactions (rd)"}, "confidence": 0.8, "curator_note": "Equation 8.110, SECOND arrow, labelled '- C2H5.'. The benzylic radical of the distonic ion displaces the ethyl group and the ion closes to the four-membered ring the book prints under this arrow as 'm/z 149, 3%'. STRUCTURE AS DRAWN: that row-2 structure is a beta-lactone protonated on the RING oxygen - the top-left ring vertex is written 'HO' with a '+' over the O and carries BOTH ring bonds, the bottom-left ring vertex carries a plain exocyclic C=O, the top-right vertex bears C6H5 and the bottom-right vertex is a CH2. So the ring is O(+)(H)-C(=O)-CH2-CH(C6H5), i.e. O-protonated 4-phenyl-2-oxetanone (C9H9O2+, 149.060), and the H-bearing ring oxygen is the FORMER CARBONYL oxygen (map 2) while the exocyclic C=O is the former alkoxy oxygen (map 3) that has just lost its ethyl. The record follows that drawn connectivity atom for atom. ARC COUNT (convention D): Book draws 4 arc(s), all single-barbed fishhooks. Arc 1 starts at the radical dot on the benzylic carbon and sweeps left; arc 2 starts on the C(1)=O(2) double bond and sweeps up and right; those two meet barb-to-barb in the empty space midway between O(2) and C(7), i.e. on the forming O(2)-C(7) ring bond. Arc 3 leaves that SAME point on the C(1)=O(2) double bond (arcs 2 and 3 share one origin - the two electrons of the pi bond splitting) and sweeps down and left with its barb onto the C(1)-O(3) bond; arc 4 comes up from under the 'C2H5' label, i.e. off the C2H5-O(3) bond, with its barb also onto the C(1)-O(3) bond, which thereby becomes the new C=O. Moves <1,2,3,4> are those four drawn arcs; move <5> is an implicit homolysis hook required for electron balance (not drawn on the page) - it carries the second electron of the cleaving O(3)-C2H5 bond onto the ethyl carbon, which is what makes the C2H5. radical the arrow label announces. SPECTATOR NOTE: the ethyl radical released here is carried unchanged into the next state so that step 3 balances atom for atom."}, {"evidence_id": "ev_step_retro_8_110", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_retro_2plus2_ketene_loss", "support_type": "textbook_proposed", "locator": {"page": 216, "equation": "8.110", "figure": null, "panel": "row 2, unlabelled arrow", "section": "8.11 Displacement reactions (rd)"}, "confidence": 0.8, "curator_note": "Equation 8.110, THIRD arrow (row 2, unlabelled): the m/z 149 ion (printed '3%') splits into the two species the book prints to the right of that arrow, 'HO(+)=CHC6H5' over '+' over 'O=C=CH2', labelled 'm/z 107, 44%'. This is a retro-[2+2] of the four-membered ring: the ring O(2)-C(1) bond and the ring C(6)-C(7) bond break while the C(1)=C(6) bond of ketene and the O(2)=C(7) bond of the protonated benzaldehyde form. ARC COUNT (convention D): Book draws 2 arc(s) inside the ring. Arc 1 originates on the left ring bond O(2)-C(1) (drawn with the usual perpendicular tick where an arc leaves a bond) and its head points onto the bottom ring bond C(1)-C(6); arc 2 originates on the right ring bond C(6)-C(7) and its head points up-left onto the top ring bond O(2)-C(7). NO move is implicit here - the two drawn arcs already account for all four bonds that change. BARB STYLE (honest limitation): the underlying scan is ~208 dpi at page size, so the two arrowheads cannot be resolved as half- versus full-barbed. They are transcribed as two-electron (double-barbed) moves because this step runs from a closed-shell even-electron cation to two closed-shell products; a one-electron reading of the same two arcs would leave unpaired electrons that neither printed product has."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 178.0988, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_149", "species_id": "o_protonated_4_phenyl_2_oxetanone", "step_id": "step_rd_ethyl_radical_loss", "observed_mz": 149.0597, "relative_intensity": 0.03, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}, {"peak_id": "peak_107", "species_id": "hydroxy_benzyl_cation_protonated_benzaldehyde", "step_id": "step_retro_2plus2_ketene_loss", "observed_mz": 107.0491, "relative_intensity": 0.44, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
